**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  THT Mono-color Round Waterclear
* Matchcode:              WL-TMRW
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-02-23
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 3mm_151033BS03000  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=273.29E-18
+ N=2.9601
+ RS=1.0279
+ IKF=191.62E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3mm_151033GS03000  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=49.736E-9
+ N=4.9996
+ RS=2.3546
+ IKF=281.88E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3mm_151033RS03000  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=404.38E-18
+ N=2.1466
+ RS=.75545
+ IKF=193.03E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3mm_151033YS03000  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=404.38E-18
+ N=2.1466
+ RS=.75545
+ IKF=193.03E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3mm_151034BS03000  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=273.29E-18
+ N=2.9601
+ RS=1.0279
+ IKF=191.62E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3mm_151034GS03000  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=406.49E-12
+ N=4.8627
+ RS=4.1370
+ IKF=13.914E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3mm_151034RS03000  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=404.38E-18
+ N=2.1466
+ RS=.75545
+ IKF=193.03E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3mm_151034YS03000  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=404.38E-18
+ N=2.1466
+ RS=.75545
+ IKF=193.03E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5mm_151053BS04500  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=68.784E-18
+ N=2.7313
+ RS=.91252
+ IKF=184.29E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5mm_151053GS03000  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=419.72E-9
+ N=4.3096
+ RS=7.9084
+ IKF=259.74E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5mm_151053RS03000  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=56.391E-12
+ N=3.7753
+ RS=.87778
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5mm_151053YS04500  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=1.9466E-15
+ N=2.3301
+ RS=.86225
+ IKF=202.15E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5mm_151054BS04500  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=2.0536E-15
+ N=3.4745
+ RS=1.0000E-6
+ IKF=48.312E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5mm_151054GS03000  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=2.0625E-15
+ N=4.4480
+ RS=1.0000E-6
+ IKF=48.388E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5mm_151054RS03000  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=10.010E-21
+ N=1.8334
+ RS=1.0000E-6
+ IKF=1.0000E3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 5mm_151054YS04500  1  2
D1 1 2 TMRW
.MODEL TMRW D
+ IS=10.010E-21
+ N=2.0120
+ RS=1.0000E-6
+ IKF=1.0000E3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=50.00E-6
+ TT=5.0000E-9
.ends
******





























